* Z:\home\hoogendijkta\Documents\hobby\speeduino\KicadPCB\Peak-And-hold-Driver\LTspice simulations\PWM low-z injector.asc
L1 N003 N007 2.5m Ipk=6A Rser=3
V1 N003 0 14.4
R2 N007 N006 200
R3 N006 P001 100
R1 5V InjPulse 1k
V2 PWM 0 PULSE(0 3.3 0 100n 100n 50u 250u 4000)
V3 InjPulse 0 PULSE(0 3.3 15m 100n 100n 8.0m 20m 4)
M2 N005 N006 N007 N007 RSJ250P10
D1 N005 N003 RBR3MM60B
R4 N014 N020 100
R5 N016 0 0.1
XU1 N016 N012 3.3V 0 N013 LT1018
V6 3.3V 0 3.3
A3 InjPulse 0 0 0 0 P002 0 0 BUF Vhigh=3.3V
A4 N013 P002 0 0 0 N017 0 0 SRFLOP Vhigh=3.3V
A1 0 0 InjPulse 0 N017 0 N019 0 AND Vhigh=3.3V
A2 0 N004 0 InjPulse 0 0 N021 0 AND Vhigh=3.3V
A5 N021 0 N019 0 0 0 N020 0 OR Vhigh=5V
D3 N008 0 D
R6 N008 N012 4k
R7 N012 0 6k
R8 3.3V N008 1k
XU2 N002 0 N009 N010 3.3V N004 LTC6992-2
C1 3.3V 0 0.1µ
R9 N009 0 500k
D4 N010 0 D
R10 3.3V N010 10k
R11 N001 N002 6k
R12 N002 0 4k
R13 3.3V N001 1k
D5 N001 0 D
A6 3.3V 0 N013 0 N018 TEST_DC 0 0 DFLOP
A7 InjPulse 0 0 0 0 N018 0 0 BUF Vhigh=3.3V
M1 N007 N014 N016 N016 IRL530NS_L
M3 P001 InjPulse 0 0 IRL530NS_L
D2 N014 N011 1N5369B
D6 N007 N011 MMSD4148
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 50m
.lib LTC1.lib
.lib LTC6992-2.sub
.backanno
.end
